physical EP update cell bank
.model NNR NMOS (LEVEL=1 VTO=0.2  KP=120u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.model PNR PMOS (LEVEL=1 VTO=-0.2 KP=40u  LAMBDA=0.02 GAMMA=0 PHI=0.7)
.subckt sqd dvp dvn wp wn psig psigb vdd vsref
Msq1 isum dvp vsref 0 NNR W=400u L=100u
Msq2 isum dvn vsref 0 NNR W=400u L=100u
Mld  isum isum vdd vdd PNR W=300u L=100u
Mpsrc psrc isum vdd vdd PNR W=300u L=100u
Mpref nref isum vdd vdd PNR W=300u L=100u
Mnref nref nref 0 0 NNR W=300u L=100u
Mpu_wp psrc psigb wp 0 NNR W=400u L=100u
Mpu_wn psrc psig  wn 0 NNR W=400u L=100u
Msk_wn wn nref ssn 0 NNR W=300u L=100u
Mss_wn ssn psigb 0 0 NNR W=400u L=100u
Msk_wp wp nref ssp 0 NNR W=300u L=100u
Mss_wp ssp psig 0 0 NNR W=400u L=100u
.ends
Vdd vdd 0 1.0
Vgbn gbn 0 0.85
Vvsref vsref 0 0.0500
Vpsig psig 0 PWL(0.0n 0.0 199.5n 0.0 200.5n 2.0 399.5n 2.0 400.5n 0.0 599.5n 0.0 600.5n 2.0 799.5n 2.0 800.5n 0.0 999.5n 0.0 1000.5n 2.0 1199.5n 2.0 1200.5n 0.0 1399.5n 0.0 1400.5n 2.0 1599.5n 2.0 1600.5n 0.0)
Vpsigb psigb 0 PWL(0.0n 2.0 199.5n 2.0 200.5n 0.0 399.5n 0.0 400.5n 2.0 599.5n 2.0 600.5n 0.0 799.5n 0.0 800.5n 2.0 999.5n 2.0 1000.5n 0.0 1199.5n 0.0 1200.5n 2.0 1399.5n 2.0 1400.5n 0.0 1599.5n 0.0 1600.5n 2.0)
Cwp_w11 wp_w11 0 120p
Cwn_w11 wn_w11 0 120p
Rcp_w11 wp_w11 cm_w11 2g
Rcn_w11 wn_w11 cm_w11 2g
Msp_w11 wp_w11 cm_w11 0 0 NNR W=120u L=100u
Msn_w11 wn_w11 cm_w11 0 0 NNR W=120u L=100u
Vdvp_w11 dvp_w11 0 PWL(0.0n 0.4187 199.5n 0.4187 200.5n 0.4186 400.0n 0.4186 400.0n 0.4769 599.5n 0.4769 600.5n 0.4769 800.0n 0.4769 800.0n 0.6976 999.5n 0.6976 1000.5n 0.6975 1200.0n 0.6975 1200.0n 0.7709 1399.5n 0.7709 1400.5n 0.7709 1600.0n 0.7709)
Vdvn_w11 dvn_w11 0 PWL(0.0n 0.5813 199.5n 0.5813 200.5n 0.5814 400.0n 0.5814 400.0n 0.5231 599.5n 0.5231 600.5n 0.5231 800.0n 0.5231 800.0n 0.3024 999.5n 0.3024 1000.5n 0.3025 1200.0n 0.3025 1200.0n 0.2291 1399.5n 0.2291 1400.5n 0.2291 1600.0n 0.2291)
Xu_w11 dvp_w11 dvn_w11 wp_w11 wn_w11 psig psigb vdd vsref sqd
Cwp_w21 wp_w21 0 120p
Cwn_w21 wn_w21 0 120p
Rcp_w21 wp_w21 cm_w21 2g
Rcn_w21 wn_w21 cm_w21 2g
Msp_w21 wp_w21 cm_w21 0 0 NNR W=120u L=100u
Msn_w21 wn_w21 cm_w21 0 0 NNR W=120u L=100u
Vdvp_w21 dvp_w21 0 PWL(0.0n 0.4187 199.5n 0.4187 200.5n 0.4186 400.0n 0.4186 400.0n 0.7769 599.5n 0.7769 600.5n 0.7769 800.0n 0.7769 800.0n 0.3976 999.5n 0.3976 1000.5n 0.3975 1200.0n 0.3975 1200.0n 0.7709 1399.5n 0.7709 1400.5n 0.7709 1600.0n 0.7709)
Vdvn_w21 dvn_w21 0 PWL(0.0n 0.5813 199.5n 0.5813 200.5n 0.5814 400.0n 0.5814 400.0n 0.2231 599.5n 0.2231 600.5n 0.2231 800.0n 0.2231 800.0n 0.6024 999.5n 0.6024 1000.5n 0.6025 1200.0n 0.6025 1200.0n 0.2291 1399.5n 0.2291 1400.5n 0.2291 1600.0n 0.2291)
Xu_w21 dvp_w21 dvn_w21 wp_w21 wn_w21 psig psigb vdd vsref sqd
Cwp_o1 wp_o1 0 120p
Cwn_o1 wn_o1 0 120p
Rcp_o1 wp_o1 cm_o1 2g
Rcn_o1 wn_o1 cm_o1 2g
Msp_o1 wp_o1 cm_o1 0 0 NNR W=120u L=100u
Msn_o1 wn_o1 cm_o1 0 0 NNR W=120u L=100u
Vdvp_o1 dvp_o1 0 PWL(0.0n 0.4277 199.5n 0.4277 200.5n 0.4281 400.0n 0.4281 400.0n 0.3720 599.5n 0.3720 600.5n 0.3716 800.0n 0.3716 800.0n 0.4508 999.5n 0.4508 1000.5n 0.4505 1200.0n 0.4505 1200.0n 0.3813 1399.5n 0.3813 1400.5n 0.3816 1600.0n 0.3816)
Vdvn_o1 dvn_o1 0 PWL(0.0n 0.5723 199.5n 0.5723 200.5n 0.5719 400.0n 0.5719 400.0n 0.6280 599.5n 0.6280 600.5n 0.6284 800.0n 0.6284 800.0n 0.5492 999.5n 0.5492 1000.5n 0.5495 1200.0n 0.5495 1200.0n 0.6187 1399.5n 0.6187 1400.5n 0.6184 1600.0n 0.6184)
Xu_o1 dvp_o1 dvn_o1 wp_o1 wn_o1 psig psigb vdd vsref sqd
Cwp_bh1 wp_bh1 0 120p
Cwn_bh1 wn_bh1 0 120p
Rcp_bh1 wp_bh1 cm_bh1 2g
Rcn_bh1 wn_bh1 cm_bh1 2g
Msp_bh1 wp_bh1 cm_bh1 0 0 NNR W=120u L=100u
Msn_bh1 wn_bh1 cm_bh1 0 0 NNR W=120u L=100u
Vdvp_bh1 dvp_bh1 0 PWL(0.0n 0.7187 199.5n 0.7187 200.5n 0.7186 400.0n 0.7186 400.0n 0.7769 599.5n 0.7769 600.5n 0.7769 800.0n 0.7769 800.0n 0.6976 999.5n 0.6976 1000.5n 0.6975 1200.0n 0.6975 1200.0n 0.7709 1399.5n 0.7709 1400.5n 0.7709 1600.0n 0.7709)
Vdvn_bh1 dvn_bh1 0 PWL(0.0n 0.2813 199.5n 0.2813 200.5n 0.2814 400.0n 0.2814 400.0n 0.2231 599.5n 0.2231 600.5n 0.2231 800.0n 0.2231 800.0n 0.3024 999.5n 0.3024 1000.5n 0.3025 1200.0n 0.3025 1200.0n 0.2291 1399.5n 0.2291 1400.5n 0.2291 1600.0n 0.2291)
Xu_bh1 dvp_bh1 dvn_bh1 wp_bh1 wn_bh1 psig psigb vdd vsref sqd
Cwp_w12 wp_w12 0 120p
Cwn_w12 wn_w12 0 120p
Rcp_w12 wp_w12 cm_w12 2g
Rcn_w12 wn_w12 cm_w12 2g
Msp_w12 wp_w12 cm_w12 0 0 NNR W=120u L=100u
Msn_w12 wn_w12 cm_w12 0 0 NNR W=120u L=100u
Vdvp_w12 dvp_w12 0 PWL(0.0n 0.2301 199.5n 0.2301 200.5n 0.2301 400.0n 0.2301 400.0n 0.3762 599.5n 0.3762 600.5n 0.3762 800.0n 0.3762 800.0n 0.6029 999.5n 0.6029 1000.5n 0.6029 1200.0n 0.6029 1200.0n 0.7553 1399.5n 0.7553 1400.5n 0.7552 1600.0n 0.7552)
Vdvn_w12 dvn_w12 0 PWL(0.0n 0.7699 199.5n 0.7699 200.5n 0.7699 400.0n 0.7699 400.0n 0.6238 599.5n 0.6238 600.5n 0.6238 800.0n 0.6238 800.0n 0.3971 999.5n 0.3971 1000.5n 0.3971 1200.0n 0.3971 1200.0n 0.2447 1399.5n 0.2447 1400.5n 0.2448 1600.0n 0.2448)
Xu_w12 dvp_w12 dvn_w12 wp_w12 wn_w12 psig psigb vdd vsref sqd
Cwp_w22 wp_w22 0 120p
Cwn_w22 wn_w22 0 120p
Rcp_w22 wp_w22 cm_w22 2g
Rcn_w22 wn_w22 cm_w22 2g
Msp_w22 wp_w22 cm_w22 0 0 NNR W=120u L=100u
Msn_w22 wn_w22 cm_w22 0 0 NNR W=120u L=100u
Vdvp_w22 dvp_w22 0 PWL(0.0n 0.2301 199.5n 0.2301 200.5n 0.2301 400.0n 0.2301 400.0n 0.6762 599.5n 0.6762 600.5n 0.6762 800.0n 0.6762 800.0n 0.3029 999.5n 0.3029 1000.5n 0.3029 1200.0n 0.3029 1200.0n 0.7553 1399.5n 0.7553 1400.5n 0.7552 1600.0n 0.7552)
Vdvn_w22 dvn_w22 0 PWL(0.0n 0.7699 199.5n 0.7699 200.5n 0.7699 400.0n 0.7699 400.0n 0.3238 599.5n 0.3238 600.5n 0.3238 800.0n 0.3238 800.0n 0.6971 999.5n 0.6971 1000.5n 0.6971 1200.0n 0.6971 1200.0n 0.2447 1399.5n 0.2447 1400.5n 0.2448 1600.0n 0.2448)
Xu_w22 dvp_w22 dvn_w22 wp_w22 wn_w22 psig psigb vdd vsref sqd
Cwp_o2 wp_o2 0 120p
Cwn_o2 wn_o2 0 120p
Rcp_o2 wp_o2 cm_o2 2g
Rcn_o2 wn_o2 cm_o2 2g
Msp_o2 wp_o2 cm_o2 0 0 NNR W=120u L=100u
Msn_o2 wn_o2 cm_o2 0 0 NNR W=120u L=100u
Vdvp_o2 dvp_o2 0 PWL(0.0n 0.6163 199.5n 0.6163 200.5n 0.6167 400.0n 0.6167 400.0n 0.4727 599.5n 0.4727 600.5n 0.4724 800.0n 0.4724 800.0n 0.5455 999.5n 0.5455 1000.5n 0.5452 1200.0n 0.5452 1200.0n 0.3969 1399.5n 0.3969 1400.5n 0.3973 1600.0n 0.3973)
Vdvn_o2 dvn_o2 0 PWL(0.0n 0.3837 199.5n 0.3837 200.5n 0.3833 400.0n 0.3833 400.0n 0.5273 599.5n 0.5273 600.5n 0.5276 800.0n 0.5276 800.0n 0.4545 999.5n 0.4545 1000.5n 0.4548 1200.0n 0.4548 1200.0n 0.6031 1399.5n 0.6031 1400.5n 0.6027 1600.0n 0.6027)
Xu_o2 dvp_o2 dvn_o2 wp_o2 wn_o2 psig psigb vdd vsref sqd
Cwp_bh2 wp_bh2 0 120p
Cwn_bh2 wn_bh2 0 120p
Rcp_bh2 wp_bh2 cm_bh2 2g
Rcn_bh2 wn_bh2 cm_bh2 2g
Msp_bh2 wp_bh2 cm_bh2 0 0 NNR W=120u L=100u
Msn_bh2 wn_bh2 cm_bh2 0 0 NNR W=120u L=100u
Vdvp_bh2 dvp_bh2 0 PWL(0.0n 0.5301 199.5n 0.5301 200.5n 0.5301 400.0n 0.5301 400.0n 0.6762 599.5n 0.6762 600.5n 0.6762 800.0n 0.6762 800.0n 0.6029 999.5n 0.6029 1000.5n 0.6029 1200.0n 0.6029 1200.0n 0.7553 1399.5n 0.7553 1400.5n 0.7552 1600.0n 0.7552)
Vdvn_bh2 dvn_bh2 0 PWL(0.0n 0.4699 199.5n 0.4699 200.5n 0.4699 400.0n 0.4699 400.0n 0.3238 599.5n 0.3238 600.5n 0.3238 800.0n 0.3238 800.0n 0.3971 999.5n 0.3971 1000.5n 0.3971 1200.0n 0.3971 1200.0n 0.2447 1399.5n 0.2447 1400.5n 0.2448 1600.0n 0.2448)
Xu_bh2 dvp_bh2 dvn_bh2 wp_bh2 wn_bh2 psig psigb vdd vsref sqd
Cwp_w13 wp_w13 0 120p
Cwn_w13 wn_w13 0 120p
Rcp_w13 wp_w13 cm_w13 2g
Rcn_w13 wn_w13 cm_w13 2g
Msp_w13 wp_w13 cm_w13 0 0 NNR W=120u L=100u
Msn_w13 wn_w13 cm_w13 0 0 NNR W=120u L=100u
Vdvp_w13 dvp_w13 0 PWL(0.0n 0.2929 199.5n 0.2929 200.5n 0.2930 400.0n 0.2930 400.0n 0.4605 599.5n 0.4605 600.5n 0.4605 800.0n 0.4605 800.0n 0.5246 999.5n 0.5246 1000.5n 0.5246 1200.0n 0.5246 1200.0n 0.6743 1399.5n 0.6743 1400.5n 0.6743 1600.0n 0.6743)
Vdvn_w13 dvn_w13 0 PWL(0.0n 0.7071 199.5n 0.7071 200.5n 0.7070 400.0n 0.7070 400.0n 0.5395 599.5n 0.5395 600.5n 0.5395 800.0n 0.5395 800.0n 0.4754 999.5n 0.4754 1000.5n 0.4754 1200.0n 0.4754 1200.0n 0.3257 1399.5n 0.3257 1400.5n 0.3257 1600.0n 0.3257)
Xu_w13 dvp_w13 dvn_w13 wp_w13 wn_w13 psig psigb vdd vsref sqd
Cwp_w23 wp_w23 0 120p
Cwn_w23 wn_w23 0 120p
Rcp_w23 wp_w23 cm_w23 2g
Rcn_w23 wn_w23 cm_w23 2g
Msp_w23 wp_w23 cm_w23 0 0 NNR W=120u L=100u
Msn_w23 wn_w23 cm_w23 0 0 NNR W=120u L=100u
Vdvp_w23 dvp_w23 0 PWL(0.0n 0.2929 199.5n 0.2929 200.5n 0.2930 400.0n 0.2930 400.0n 0.7605 599.5n 0.7605 600.5n 0.7605 800.0n 0.7605 800.0n 0.2246 999.5n 0.2246 1000.5n 0.2246 1200.0n 0.2246 1200.0n 0.6743 1399.5n 0.6743 1400.5n 0.6743 1600.0n 0.6743)
Vdvn_w23 dvn_w23 0 PWL(0.0n 0.7071 199.5n 0.7071 200.5n 0.7070 400.0n 0.7070 400.0n 0.2395 599.5n 0.2395 600.5n 0.2395 800.0n 0.2395 800.0n 0.7754 999.5n 0.7754 1000.5n 0.7754 1200.0n 0.7754 1200.0n 0.3257 1399.5n 0.3257 1400.5n 0.3257 1600.0n 0.3257)
Xu_w23 dvp_w23 dvn_w23 wp_w23 wn_w23 psig psigb vdd vsref sqd
Cwp_o3 wp_o3 0 120p
Cwn_o3 wn_o3 0 120p
Rcp_o3 wp_o3 cm_o3 2g
Rcn_o3 wn_o3 cm_o3 2g
Msp_o3 wp_o3 cm_o3 0 0 NNR W=120u L=100u
Msn_o3 wn_o3 cm_o3 0 0 NNR W=120u L=100u
Vdvp_o3 dvp_o3 0 PWL(0.0n 0.5534 199.5n 0.5534 200.5n 0.5538 400.0n 0.5538 400.0n 0.3884 599.5n 0.3884 600.5n 0.3881 800.0n 0.3881 800.0n 0.6238 999.5n 0.6238 1000.5n 0.6234 1200.0n 0.6234 1200.0n 0.4779 1399.5n 0.4779 1400.5n 0.4783 1600.0n 0.4783)
Vdvn_o3 dvn_o3 0 PWL(0.0n 0.4466 199.5n 0.4466 200.5n 0.4462 400.0n 0.4462 400.0n 0.6116 599.5n 0.6116 600.5n 0.6119 800.0n 0.6119 800.0n 0.3762 999.5n 0.3762 1000.5n 0.3766 1200.0n 0.3766 1200.0n 0.5221 1399.5n 0.5221 1400.5n 0.5217 1600.0n 0.5217)
Xu_o3 dvp_o3 dvn_o3 wp_o3 wn_o3 psig psigb vdd vsref sqd
Cwp_bh3 wp_bh3 0 120p
Cwn_bh3 wn_bh3 0 120p
Rcp_bh3 wp_bh3 cm_bh3 2g
Rcn_bh3 wn_bh3 cm_bh3 2g
Msp_bh3 wp_bh3 cm_bh3 0 0 NNR W=120u L=100u
Msn_bh3 wn_bh3 cm_bh3 0 0 NNR W=120u L=100u
Vdvp_bh3 dvp_bh3 0 PWL(0.0n 0.5929 199.5n 0.5929 200.5n 0.5930 400.0n 0.5930 400.0n 0.7605 599.5n 0.7605 600.5n 0.7605 800.0n 0.7605 800.0n 0.5246 999.5n 0.5246 1000.5n 0.5246 1200.0n 0.5246 1200.0n 0.6743 1399.5n 0.6743 1400.5n 0.6743 1600.0n 0.6743)
Vdvn_bh3 dvn_bh3 0 PWL(0.0n 0.4071 199.5n 0.4071 200.5n 0.4070 400.0n 0.4070 400.0n 0.2395 599.5n 0.2395 600.5n 0.2395 800.0n 0.2395 800.0n 0.4754 999.5n 0.4754 1000.5n 0.4754 1200.0n 0.4754 1200.0n 0.3257 1399.5n 0.3257 1400.5n 0.3257 1600.0n 0.3257)
Xu_bh3 dvp_bh3 dvn_bh3 wp_bh3 wn_bh3 psig psigb vdd vsref sqd
Cwp_w14 wp_w14 0 120p
Cwn_w14 wn_w14 0 120p
Rcp_w14 wp_w14 cm_w14 2g
Rcn_w14 wn_w14 cm_w14 2g
Msp_w14 wp_w14 cm_w14 0 0 NNR W=120u L=100u
Msn_w14 wn_w14 cm_w14 0 0 NNR W=120u L=100u
Vdvp_w14 dvp_w14 0 PWL(0.0n 0.2976 199.5n 0.2976 200.5n 0.2977 400.0n 0.2977 400.0n 0.3494 599.5n 0.3494 600.5n 0.3494 800.0n 0.3494 800.0n 0.5512 999.5n 0.5512 1000.5n 0.5513 1200.0n 0.5513 1200.0n 0.6015 1399.5n 0.6015 1400.5n 0.6015 1600.0n 0.6015)
Vdvn_w14 dvn_w14 0 PWL(0.0n 0.7024 199.5n 0.7024 200.5n 0.7023 400.0n 0.7023 400.0n 0.6506 599.5n 0.6506 600.5n 0.6506 800.0n 0.6506 800.0n 0.4488 999.5n 0.4488 1000.5n 0.4487 1200.0n 0.4487 1200.0n 0.3985 1399.5n 0.3985 1400.5n 0.3985 1600.0n 0.3985)
Xu_w14 dvp_w14 dvn_w14 wp_w14 wn_w14 psig psigb vdd vsref sqd
Cwp_w24 wp_w24 0 120p
Cwn_w24 wn_w24 0 120p
Rcp_w24 wp_w24 cm_w24 2g
Rcn_w24 wn_w24 cm_w24 2g
Msp_w24 wp_w24 cm_w24 0 0 NNR W=120u L=100u
Msn_w24 wn_w24 cm_w24 0 0 NNR W=120u L=100u
Vdvp_w24 dvp_w24 0 PWL(0.0n 0.2976 199.5n 0.2976 200.5n 0.2977 400.0n 0.2977 400.0n 0.6494 599.5n 0.6494 600.5n 0.6494 800.0n 0.6494 800.0n 0.2512 999.5n 0.2512 1000.5n 0.2513 1200.0n 0.2513 1200.0n 0.6015 1399.5n 0.6015 1400.5n 0.6015 1600.0n 0.6015)
Vdvn_w24 dvn_w24 0 PWL(0.0n 0.7024 199.5n 0.7024 200.5n 0.7023 400.0n 0.7023 400.0n 0.3506 599.5n 0.3506 600.5n 0.3506 800.0n 0.3506 800.0n 0.7488 999.5n 0.7488 1000.5n 0.7487 1200.0n 0.7487 1200.0n 0.3985 1399.5n 0.3985 1400.5n 0.3985 1600.0n 0.3985)
Xu_w24 dvp_w24 dvn_w24 wp_w24 wn_w24 psig psigb vdd vsref sqd
Cwp_o4 wp_o4 0 120p
Cwn_o4 wn_o4 0 120p
Rcp_o4 wp_o4 cm_o4 2g
Rcn_o4 wn_o4 cm_o4 2g
Msp_o4 wp_o4 cm_o4 0 0 NNR W=120u L=100u
Msn_o4 wn_o4 cm_o4 0 0 NNR W=120u L=100u
Vdvp_o4 dvp_o4 0 PWL(0.0n 0.5488 199.5n 0.5488 200.5n 0.5490 400.0n 0.5490 400.0n 0.4995 599.5n 0.4995 600.5n 0.4991 800.0n 0.4991 800.0n 0.5972 999.5n 0.5972 1000.5n 0.5968 1200.0n 0.5968 1200.0n 0.5507 1399.5n 0.5507 1400.5n 0.5510 1600.0n 0.5510)
Vdvn_o4 dvn_o4 0 PWL(0.0n 0.4512 199.5n 0.4512 200.5n 0.4510 400.0n 0.4510 400.0n 0.5005 599.5n 0.5005 600.5n 0.5009 800.0n 0.5009 800.0n 0.4028 999.5n 0.4028 1000.5n 0.4032 1200.0n 0.4032 1200.0n 0.4493 1399.5n 0.4493 1400.5n 0.4490 1600.0n 0.4490)
Xu_o4 dvp_o4 dvn_o4 wp_o4 wn_o4 psig psigb vdd vsref sqd
Cwp_bh4 wp_bh4 0 120p
Cwn_bh4 wn_bh4 0 120p
Rcp_bh4 wp_bh4 cm_bh4 2g
Rcn_bh4 wn_bh4 cm_bh4 2g
Msp_bh4 wp_bh4 cm_bh4 0 0 NNR W=120u L=100u
Msn_bh4 wn_bh4 cm_bh4 0 0 NNR W=120u L=100u
Vdvp_bh4 dvp_bh4 0 PWL(0.0n 0.5976 199.5n 0.5976 200.5n 0.5977 400.0n 0.5977 400.0n 0.6494 599.5n 0.6494 600.5n 0.6494 800.0n 0.6494 800.0n 0.5512 999.5n 0.5512 1000.5n 0.5513 1200.0n 0.5513 1200.0n 0.6015 1399.5n 0.6015 1400.5n 0.6015 1600.0n 0.6015)
Vdvn_bh4 dvn_bh4 0 PWL(0.0n 0.4024 199.5n 0.4024 200.5n 0.4023 400.0n 0.4023 400.0n 0.3506 599.5n 0.3506 600.5n 0.3506 800.0n 0.3506 800.0n 0.4488 999.5n 0.4488 1000.5n 0.4487 1200.0n 0.4487 1200.0n 0.3985 1399.5n 0.3985 1400.5n 0.3985 1600.0n 0.3985)
Xu_bh4 dvp_bh4 dvn_bh4 wp_bh4 wn_bh4 psig psigb vdd vsref sqd
Cwp_w15 wp_w15 0 120p
Cwn_w15 wn_w15 0 120p
Rcp_w15 wp_w15 cm_w15 2g
Rcn_w15 wn_w15 cm_w15 2g
Msp_w15 wp_w15 cm_w15 0 0 NNR W=120u L=100u
Msn_w15 wn_w15 cm_w15 0 0 NNR W=120u L=100u
Vdvp_w15 dvp_w15 0 PWL(0.0n 0.2165 199.5n 0.2165 200.5n 0.2164 400.0n 0.2164 400.0n 0.4304 599.5n 0.4304 600.5n 0.4304 800.0n 0.4304 800.0n 0.5264 999.5n 0.5264 1000.5n 0.5263 1200.0n 0.5263 1200.0n 0.7713 1399.5n 0.7713 1400.5n 0.7713 1600.0n 0.7713)
Vdvn_w15 dvn_w15 0 PWL(0.0n 0.7835 199.5n 0.7835 200.5n 0.7836 400.0n 0.7836 400.0n 0.5696 599.5n 0.5696 600.5n 0.5696 800.0n 0.5696 800.0n 0.4736 999.5n 0.4736 1000.5n 0.4737 1200.0n 0.4737 1200.0n 0.2287 1399.5n 0.2287 1400.5n 0.2287 1600.0n 0.2287)
Xu_w15 dvp_w15 dvn_w15 wp_w15 wn_w15 psig psigb vdd vsref sqd
Cwp_w25 wp_w25 0 120p
Cwn_w25 wn_w25 0 120p
Rcp_w25 wp_w25 cm_w25 2g
Rcn_w25 wn_w25 cm_w25 2g
Msp_w25 wp_w25 cm_w25 0 0 NNR W=120u L=100u
Msn_w25 wn_w25 cm_w25 0 0 NNR W=120u L=100u
Vdvp_w25 dvp_w25 0 PWL(0.0n 0.2165 199.5n 0.2165 200.5n 0.2164 400.0n 0.2164 400.0n 0.7304 599.5n 0.7304 600.5n 0.7304 800.0n 0.7304 800.0n 0.2264 999.5n 0.2264 1000.5n 0.2263 1200.0n 0.2263 1200.0n 0.7713 1399.5n 0.7713 1400.5n 0.7713 1600.0n 0.7713)
Vdvn_w25 dvn_w25 0 PWL(0.0n 0.7835 199.5n 0.7835 200.5n 0.7836 400.0n 0.7836 400.0n 0.2696 599.5n 0.2696 600.5n 0.2696 800.0n 0.2696 800.0n 0.7736 999.5n 0.7736 1000.5n 0.7737 1200.0n 0.7737 1200.0n 0.2287 1399.5n 0.2287 1400.5n 0.2287 1600.0n 0.2287)
Xu_w25 dvp_w25 dvn_w25 wp_w25 wn_w25 psig psigb vdd vsref sqd
Cwp_o5 wp_o5 0 120p
Cwn_o5 wn_o5 0 120p
Rcp_o5 wp_o5 cm_o5 2g
Rcn_o5 wn_o5 cm_o5 2g
Msp_o5 wp_o5 cm_o5 0 0 NNR W=120u L=100u
Msn_o5 wn_o5 cm_o5 0 0 NNR W=120u L=100u
Vdvp_o5 dvp_o5 0 PWL(0.0n 0.6299 199.5n 0.6299 200.5n 0.6303 400.0n 0.6303 400.0n 0.4185 599.5n 0.4185 600.5n 0.4182 800.0n 0.4182 800.0n 0.6220 999.5n 0.6220 1000.5n 0.6217 1200.0n 0.6217 1200.0n 0.3810 1399.5n 0.3810 1400.5n 0.3813 1600.0n 0.3813)
Vdvn_o5 dvn_o5 0 PWL(0.0n 0.3701 199.5n 0.3701 200.5n 0.3697 400.0n 0.3697 400.0n 0.5815 599.5n 0.5815 600.5n 0.5818 800.0n 0.5818 800.0n 0.3780 999.5n 0.3780 1000.5n 0.3783 1200.0n 0.3783 1200.0n 0.6190 1399.5n 0.6190 1400.5n 0.6187 1600.0n 0.6187)
Xu_o5 dvp_o5 dvn_o5 wp_o5 wn_o5 psig psigb vdd vsref sqd
Cwp_bh5 wp_bh5 0 120p
Cwn_bh5 wn_bh5 0 120p
Rcp_bh5 wp_bh5 cm_bh5 2g
Rcn_bh5 wn_bh5 cm_bh5 2g
Msp_bh5 wp_bh5 cm_bh5 0 0 NNR W=120u L=100u
Msn_bh5 wn_bh5 cm_bh5 0 0 NNR W=120u L=100u
Vdvp_bh5 dvp_bh5 0 PWL(0.0n 0.5165 199.5n 0.5165 200.5n 0.5164 400.0n 0.5164 400.0n 0.7304 599.5n 0.7304 600.5n 0.7304 800.0n 0.7304 800.0n 0.5264 999.5n 0.5264 1000.5n 0.5263 1200.0n 0.5263 1200.0n 0.7713 1399.5n 0.7713 1400.5n 0.7713 1600.0n 0.7713)
Vdvn_bh5 dvn_bh5 0 PWL(0.0n 0.4835 199.5n 0.4835 200.5n 0.4836 400.0n 0.4836 400.0n 0.2696 599.5n 0.2696 600.5n 0.2696 800.0n 0.2696 800.0n 0.4736 999.5n 0.4736 1000.5n 0.4737 1200.0n 0.4737 1200.0n 0.2287 1399.5n 0.2287 1400.5n 0.2287 1600.0n 0.2287)
Xu_bh5 dvp_bh5 dvn_bh5 wp_bh5 wn_bh5 psig psigb vdd vsref sqd
Cwp_w16 wp_w16 0 120p
Cwn_w16 wn_w16 0 120p
Rcp_w16 wp_w16 cm_w16 2g
Rcn_w16 wn_w16 cm_w16 2g
Msp_w16 wp_w16 cm_w16 0 0 NNR W=120u L=100u
Msn_w16 wn_w16 cm_w16 0 0 NNR W=120u L=100u
Vdvp_w16 dvp_w16 0 PWL(0.0n 0.4831 199.5n 0.4831 200.5n 0.4832 400.0n 0.4832 400.0n 0.3869 599.5n 0.3869 600.5n 0.3869 800.0n 0.3869 800.0n 0.7070 999.5n 0.7070 1000.5n 0.7070 1200.0n 0.7070 1200.0n 0.5560 1399.5n 0.5560 1400.5n 0.5561 1600.0n 0.5561)
Vdvn_w16 dvn_w16 0 PWL(0.0n 0.5169 199.5n 0.5169 200.5n 0.5168 400.0n 0.5168 400.0n 0.6131 599.5n 0.6131 600.5n 0.6131 800.0n 0.6131 800.0n 0.2930 999.5n 0.2930 1000.5n 0.2930 1200.0n 0.2930 1200.0n 0.4440 1399.5n 0.4440 1400.5n 0.4439 1600.0n 0.4439)
Xu_w16 dvp_w16 dvn_w16 wp_w16 wn_w16 psig psigb vdd vsref sqd
Cwp_w26 wp_w26 0 120p
Cwn_w26 wn_w26 0 120p
Rcp_w26 wp_w26 cm_w26 2g
Rcn_w26 wn_w26 cm_w26 2g
Msp_w26 wp_w26 cm_w26 0 0 NNR W=120u L=100u
Msn_w26 wn_w26 cm_w26 0 0 NNR W=120u L=100u
Vdvp_w26 dvp_w26 0 PWL(0.0n 0.4831 199.5n 0.4831 200.5n 0.4832 400.0n 0.4832 400.0n 0.6869 599.5n 0.6869 600.5n 0.6869 800.0n 0.6869 800.0n 0.4070 999.5n 0.4070 1000.5n 0.4070 1200.0n 0.4070 1200.0n 0.5560 1399.5n 0.5560 1400.5n 0.5561 1600.0n 0.5561)
Vdvn_w26 dvn_w26 0 PWL(0.0n 0.5169 199.5n 0.5169 200.5n 0.5168 400.0n 0.5168 400.0n 0.3131 599.5n 0.3131 600.5n 0.3131 800.0n 0.3131 800.0n 0.5930 999.5n 0.5930 1000.5n 0.5930 1200.0n 0.5930 1200.0n 0.4440 1399.5n 0.4440 1400.5n 0.4439 1600.0n 0.4439)
Xu_w26 dvp_w26 dvn_w26 wp_w26 wn_w26 psig psigb vdd vsref sqd
Cwp_o6 wp_o6 0 120p
Cwn_o6 wn_o6 0 120p
Rcp_o6 wp_o6 cm_o6 2g
Rcn_o6 wn_o6 cm_o6 2g
Msp_o6 wp_o6 cm_o6 0 0 NNR W=120u L=100u
Msn_o6 wn_o6 cm_o6 0 0 NNR W=120u L=100u
Vdvp_o6 dvp_o6 0 PWL(0.0n 0.3632 199.5n 0.3632 200.5n 0.3635 400.0n 0.3635 400.0n 0.4620 599.5n 0.4620 600.5n 0.4617 800.0n 0.4617 800.0n 0.4414 999.5n 0.4414 1000.5n 0.4411 1200.0n 0.4411 1200.0n 0.5962 1399.5n 0.5962 1400.5n 0.5965 1600.0n 0.5965)
Vdvn_o6 dvn_o6 0 PWL(0.0n 0.6368 199.5n 0.6368 200.5n 0.6365 400.0n 0.6365 400.0n 0.5380 599.5n 0.5380 600.5n 0.5383 800.0n 0.5383 800.0n 0.5586 999.5n 0.5586 1000.5n 0.5589 1200.0n 0.5589 1200.0n 0.4038 1399.5n 0.4038 1400.5n 0.4035 1600.0n 0.4035)
Xu_o6 dvp_o6 dvn_o6 wp_o6 wn_o6 psig psigb vdd vsref sqd
Cwp_bh6 wp_bh6 0 120p
Cwn_bh6 wn_bh6 0 120p
Rcp_bh6 wp_bh6 cm_bh6 2g
Rcn_bh6 wn_bh6 cm_bh6 2g
Msp_bh6 wp_bh6 cm_bh6 0 0 NNR W=120u L=100u
Msn_bh6 wn_bh6 cm_bh6 0 0 NNR W=120u L=100u
Vdvp_bh6 dvp_bh6 0 PWL(0.0n 0.7831 199.5n 0.7831 200.5n 0.7832 400.0n 0.7832 400.0n 0.6869 599.5n 0.6869 600.5n 0.6869 800.0n 0.6869 800.0n 0.7070 999.5n 0.7070 1000.5n 0.7070 1200.0n 0.7070 1200.0n 0.5560 1399.5n 0.5560 1400.5n 0.5561 1600.0n 0.5561)
Vdvn_bh6 dvn_bh6 0 PWL(0.0n 0.2169 199.5n 0.2169 200.5n 0.2168 400.0n 0.2168 400.0n 0.3131 599.5n 0.3131 600.5n 0.3131 800.0n 0.3131 800.0n 0.2930 999.5n 0.2930 1000.5n 0.2930 1200.0n 0.2930 1200.0n 0.4440 1399.5n 0.4440 1400.5n 0.4439 1600.0n 0.4439)
Xu_bh6 dvp_bh6 dvn_bh6 wp_bh6 wn_bh6 psig psigb vdd vsref sqd
Cwp_bo wp_bo 0 120p
Cwn_bo wn_bo 0 120p
Rcp_bo wp_bo cm_bo 2g
Rcn_bo wn_bo cm_bo 2g
Msp_bo wp_bo cm_bo 0 0 NNR W=120u L=100u
Msn_bo wn_bo cm_bo 0 0 NNR W=120u L=100u
Vdvp_bo dvp_bo 0 PWL(0.0n 0.6464 199.5n 0.6464 200.5n 0.6467 400.0n 0.6467 400.0n 0.6489 599.5n 0.6489 600.5n 0.6485 800.0n 0.6485 800.0n 0.6484 999.5n 0.6484 1000.5n 0.6480 1200.0n 0.6480 1200.0n 0.6522 1399.5n 0.6522 1400.5n 0.6526 1600.0n 0.6526)
Vdvn_bo dvn_bo 0 PWL(0.0n 0.3536 199.5n 0.3536 200.5n 0.3533 400.0n 0.3533 400.0n 0.3511 599.5n 0.3511 600.5n 0.3515 800.0n 0.3515 800.0n 0.3516 999.5n 0.3516 1000.5n 0.3520 1200.0n 0.3520 1200.0n 0.3478 1399.5n 0.3478 1400.5n 0.3474 1600.0n 0.3474)
Xu_bo dvp_bo dvn_bo wp_bo wn_bo psig psigb vdd vsref sqd
.ic v(wp_w11)=0.5 v(wn_w11)=0.5 v(cm_w11)=0.5
.ic v(wp_w21)=0.5 v(wn_w21)=0.5 v(cm_w21)=0.5
.ic v(wp_o1)=0.5 v(wn_o1)=0.5 v(cm_o1)=0.5
.ic v(wp_bh1)=0.5 v(wn_bh1)=0.5 v(cm_bh1)=0.5
.ic v(wp_w12)=0.5 v(wn_w12)=0.5 v(cm_w12)=0.5
.ic v(wp_w22)=0.5 v(wn_w22)=0.5 v(cm_w22)=0.5
.ic v(wp_o2)=0.5 v(wn_o2)=0.5 v(cm_o2)=0.5
.ic v(wp_bh2)=0.5 v(wn_bh2)=0.5 v(cm_bh2)=0.5
.ic v(wp_w13)=0.5 v(wn_w13)=0.5 v(cm_w13)=0.5
.ic v(wp_w23)=0.5 v(wn_w23)=0.5 v(cm_w23)=0.5
.ic v(wp_o3)=0.5 v(wn_o3)=0.5 v(cm_o3)=0.5
.ic v(wp_bh3)=0.5 v(wn_bh3)=0.5 v(cm_bh3)=0.5
.ic v(wp_w14)=0.5 v(wn_w14)=0.5 v(cm_w14)=0.5
.ic v(wp_w24)=0.5 v(wn_w24)=0.5 v(cm_w24)=0.5
.ic v(wp_o4)=0.5 v(wn_o4)=0.5 v(cm_o4)=0.5
.ic v(wp_bh4)=0.5 v(wn_bh4)=0.5 v(cm_bh4)=0.5
.ic v(wp_w15)=0.5 v(wn_w15)=0.5 v(cm_w15)=0.5
.ic v(wp_w25)=0.5 v(wn_w25)=0.5 v(cm_w25)=0.5
.ic v(wp_o5)=0.5 v(wn_o5)=0.5 v(cm_o5)=0.5
.ic v(wp_bh5)=0.5 v(wn_bh5)=0.5 v(cm_bh5)=0.5
.ic v(wp_w16)=0.5 v(wn_w16)=0.5 v(cm_w16)=0.5
.ic v(wp_w26)=0.5 v(wn_w26)=0.5 v(cm_w26)=0.5
.ic v(wp_o6)=0.5 v(wn_o6)=0.5 v(cm_o6)=0.5
.ic v(wp_bh6)=0.5 v(wn_bh6)=0.5 v(cm_bh6)=0.5
.ic v(wp_bo)=0.5 v(wn_bo)=0.5 v(cm_bo)=0.5
.tran 1n 1600n uic
.control
run
wrdata pusg.dat v(wp_w11) v(wn_w11) v(wp_w21) v(wn_w21) v(wp_o1) v(wn_o1) v(wp_bh1) v(wn_bh1) v(wp_w12) v(wn_w12) v(wp_w22) v(wn_w22) v(wp_o2) v(wn_o2) v(wp_bh2) v(wn_bh2) v(wp_w13) v(wn_w13) v(wp_w23) v(wn_w23) v(wp_o3) v(wn_o3) v(wp_bh3) v(wn_bh3) v(wp_w14) v(wn_w14) v(wp_w24) v(wn_w24) v(wp_o4) v(wn_o4) v(wp_bh4) v(wn_bh4) v(wp_w15) v(wn_w15) v(wp_w25) v(wn_w25) v(wp_o5) v(wn_o5) v(wp_bh5) v(wn_bh5) v(wp_w16) v(wn_w16) v(wp_w26) v(wn_w26) v(wp_o6) v(wn_o6) v(wp_bh6) v(wn_bh6) v(wp_bo) v(wn_bo)
.endc
.end
